US08106090B2
[(1R,2S)-1-Benzyl-3-(1,3-dihydro-isoindol-2-yl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester
Using general procedure 1 with [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.132 g, 0.50 mmol) and 2,3-dihydro-1H-isoindole (0.114 mL, 1.0 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 0.50 mmol, 0.132 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | 2,3-dihydro-1H-isoindole | 1.0 mmol, 0.114 mL | C1NCC2=CC=CC=C12 | C8H9N
product | [(1R,2S)-1-Benzyl-3-(1,3-dihydro-isoindol-2-yl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN1CC2=CC=CC=C2C1)O)CC1=CC=CC=C1)=O | C23H30N2O3
